US04618416
Preparation of N-(3-aminopropyl)thiododecanamide
10.4 g of ethyl-dodecanedithioate is dissolved in 100 ml of toluene and the solution obtained is mixed with a solution of 30 g of 1,3-diaminopropane in 200 ml of toluene. The mixture is maintained at about 10° C. for 1 hour, with stirring.

reactant | ethyl-dodecanedithioate | 10.4 g | C(C)SC(CCCCCCCCCCC)=S | C14H28S2
reactant | 1,3-diaminopropane | 30 g | NCCCN | C3H10N2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-aminopropyl)thiododecanamide | NCCCNC(CCCCCCCCCCC)=S | C15H32N2S
